US04341769
A solution of 12 g of 3-amino-6-ethoxypyridine in 30 ml of acetone was admixed with a solution of 7.6 g of potassium thiocyanate in 60 ml of acetone, and under stirring, 15.4 g of benzoyl chloride was added dropwise. The mixture was then boiled for 10 minutes. The reaction mixture was poured into ice-water and the resulting crystals (m.p. 130°-133° C.) were recovered by filtration and boiled with 50 ml of 10% sodium hydroxide for 15 minutes. After cooling, crystals (m.p. 142°-146° C.) of 6-ethoxy-3-pyridylthiourea were obtained. These crystals were dissolved in 150 ml of hot 10% potassium hydroxide, and after addition of 37 g of lead acetate, the mixture was stirred at 80° C. for 20 minutes. The precipitated lead sulfide was filtered off and the filtrate was neutralized to give 5 g of 6-ethoxy-3-pyridylcyanamide as colorless needles melting 102°-104° C.

reactant | 3-amino-6-ethoxypyridine | 12 g | NC=1C=NC(=CC1)OCC | C7H10N2O
reactant | potassium thiocyanate | 7.6 g | [S-]C#N.[K+]
reactant | benzoyl chloride | 15.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 6-ethoxy-3-pyridylthiourea | C(C)OC1=CC=C(C=N1)NC(=S)N | C8H11N3OS
